US07514448B2
5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylic acid
Ethyl 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylate (0.89 g, 3.3 mmol) was partly dissolved in 1,4 dioxane and 10 mL 1N NaOH added. The reaction mixture was heated to 80° C. where it became homogenous. After 2 hours the reaction mixture was cooled to room temperature, diluted with ethyl acetate, and a 10% citric acid solution. A precipitate formed which was filtered off, washed with water and dried to 0.71 g, 2.9 mmol, 88% yield.

reactant | Ethyl 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylate | 3.3 mmol, 0.89 g | N1C=C(C=2C1=NC=CC2)C2=CC=C(S2)C(=O)OCC | C14H12N2O2S
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,4 dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)thiophene-2-carboxylic acid | 88% yield | N1C=C(C=2C1=NC=CC2)C2=CC=C(S2)C(=O)O | C12H8N2O2S
